US05328809
Sodium metal (6.99 g, 304 mmol) was dissolved in dry methanol (120 ml) under Ar to give a 2.5M solution of sodium methoxide. A solution of 4-methoxyphenol (31.4 g, 253 mmol) in dry methanol (150 ml) was added and this mixture was heated to reflux for 30 min. After cooling to room temperature, a solution of 1-bromo-2-methylpentane (46.0 g, 279 mmol) in dry methanol (100 ml) was added. The mixture was then heated to reflux for 16 hours. The solvent was removed in vacuo, the residue dissolved in ether (200 ml), washed with dilute aqueous sodium hydroxide (250 ml) and water (500 ml), dried over MgSO4 and concentrated in vacuo again. Distillation at 80° C./0.5 mm Hg afforded 14.0 g (27%) 1-methoxy-4-(2'-methylpentyloxy)benzene, 1H NMR (250.1 MHz, CDCl3): δ=0.94(t,3 H), 1.02 (d, 3 H), 1.16-1.56 (m, 4 H), 1.93 (m, 1 H), 3.64-3.82 (m, 2 H), 3.77 (s, 3 H), 6.81-6.89 (m, 4 H), 13C NMR (100.6 MHz, CDCl3): δ=14.3, 17.0 (both CH3), 20.1, 35.8 (both CH2), 33.0 (CH), 55.7 (OCH3), 73.9 (OCH2), 114.6, 115.4 (arom. CH), 153.5, 153.6 (ipso C). IR(film): 2956(m), 1509(s), 1232(s), 1045(m), 824(m) cm-1, MS(EI) :m/z (%)=208 (100), 124 (32), Calcd. for C13H20O2 : C 74.96, H 9.68 found: C 75.03, H 9.70.

reactant | 4-methoxyphenol | 253 mmol, 31.4 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | 1-bromo-2-methylpentane | 279 mmol, 46.0 g | BrCC(CCC)C | C6H13Br
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 1-methoxy-4-(2'-methylpentyloxy)benzene | 14.0 g, 27% | COC1=CC=C(C=C1)OCC(CCC)C | C13H20O2
